US06794397B2
6-Chloro-N-(2-nitro-4-trifluoromethylphenyl)-3-pyridinecarboxamide
To a mixture of 6-chloronicotinoyl chloride (100 mg, 0.6 mmol) and 2-nitro-4-trifluoromethylaniline (117 mg, 0.6 mmol) in THF (10 ml) was added triethylamine (0.16 ml, 1.1 mmol). The mixture was stirred at room temperature overnight and then diluted with ethyl acetate. Water was added to dissolve the precipitate and the organic phase was separated and washed with water, then dried over anhydrous sodium sulfate. The product was purified by column chromatography to give the title compound as a pale yellow solid. 1H NMR (DMSO-d6): 11.27 (s, 1H), 8.97 (d, J=2.7, 1H), 8.38-8.35 (m, 2H), 8.19 (d, J=8.4, 1H), 7.96 (d, J=8.7, 1H), 7.78 (d, J=8.1, 1H).

reactant | 6-chloronicotinoyl chloride | 0.6 mmol, 100 mg | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 2-nitro-4-trifluoromethylaniline | 0.6 mmol, 117 mg | [N+](=O)([O-])C1=C(N)C=CC(=C1)C(F)(F)F | C7H5F3N2O2
reactant | triethylamine | 1.1 mmol, 0.16 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-N-(2-nitro-4-trifluoromethylphenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C13H7ClF3N3O3
